US07691843B2
To a stirred solution of 3-mercaptobenzoic acid methyl ester (2.32 g, 13.8 mmol) in DMF (15 mL) at 0° C. was added NaH (60% dispersion in mineral oil, 608 mg, 15.2 mmol) in small portions. After stirring for 10 min at 0° C., and a further 30 min at room temperature, perfluoroisopropyl iodide (2.16 mL, 15.2 mmol, 1.1) was added to the reaction. Following the addition, the reaction was stirred for 10 min at room temperature and then heated to 60° C. After 90 min at 60° C. the reaction was cooled to room temperature, diluted with ethyl ether (150 mL), washed with brine (2×200 mL), saturated aqueous NaHCO3 (200 mL), brine (100 mL), dried over MgSO4 and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using 5% EtOAc in hexanes as an eluent to furnish 3-(1,2,2,2-tetrafluoro-1-trifluoromethylethylthio)benzoic acid methyl ester (3.13 g).

reactant | 3-mercaptobenzoic acid methyl ester | 13.8 mmol, 2.32 g | COC(C1=CC(=CC=C1)S)=O | C8H8O2S
reactant | NaH | 15.2 mmol, 608 mg | [H-].[Na+]
reactant | perfluoroisopropyl iodide | 15.2 mmol, 2.16 mL | FC(C(F)(F)F)(C(F)(F)F)I | C3F7I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 3-(1,2,2,2-tetrafluoro-1-trifluoromethylethylthio)benzoic acid methyl ester | 3.13 g | COC(C1=CC(=CC=C1)SC(C(F)(F)F)(C(F)(F)F)F)=O | C11H7F7O2S
